US06720332B2
1-[(Z)-(4-Dimethylaminomethylanilino)methylidene]-1,3-dihydro-2H-pyrrolo[3,2-f]quinoline-2-one
A mixture of dimethylaminomethylidene-1,3-dihydro-2H-pyrrolo[3,2-f]quinoline-2-one (0.1 mmol), 4-dimethylaminomethylaniline (0.1 mmol) and conc. hydrochloric acid (0.02 mL) in ethanol (1 mL) was heated at reflux until the reaction was complete as determined by tic analysis. The reaction mixture was allowed to cool to room temperature. The solvent was evaporated and the residue purified using silica gel chromatography to give the title compound as an orange-brown solid, 15 mg. (42%). 1H NMR (DMSO-d6): δ 2.17 (s, 6H), 3.17 (s, 2H), 7.31-7.51 (m, 6H), 7.74 (d, J=8.7 Hz, 1H), 8.74 (d, J=3.3 Hz, 1H), 8.83 (d, J=6.0 Hz, 1H), 8.86 (d, J=12 Hz, 1H), 10.95 (s, 1H), 11.80 (d, J=12 Hz, 1H); APESI+MS m/z 345 (M+1)+.

reactant | dimethylaminomethylidene-1,3-dihydro-2H-pyrrolo[3,2-f]quinoline-2-one | 0.1 mmol | CN(C)C=C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C14H13N3O
reactant | 4-dimethylaminomethylaniline | 0.1 mmol | CN(C)CC1=CC=C(N)C=C1 | C9H14N2
reactant | hydrochloric acid | 0.02 mL | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-[(Z)-(4-Dimethylaminomethylanilino)methylidene]-1,3-dihydro-2H-pyrrolo[3,2-f]quinoline-2-one | CN(C)CC1=CC=C(N\C=C\2/C(NC=3C2=C2C=CC=NC2=CC3)=O)C=C1 | C21H20N4O
